US04197243
Following the procedure set forth in general method A supra using 1.22 g. of 5-chloro-4-dimethylamino-2-ethoxybenzoic acid and 0.97 g. of 3-amino-1-benzylpyrrolidine, 1.7 g. of N-(1-benzyl-3-pyrrolidinyl)-5-chloro-4-dimethylamino-2-ethoxybenzamide was obtained.

reactant | 5-chloro-4-dimethylamino-2-ethoxybenzoic acid | ClC=1C(=CC(=C(C(=O)O)C1)OCC)N(C)C | C11H14ClNO3
reactant | 3-amino-1-benzylpyrrolidine | NC1CN(CC1)CC1=CC=CC=C1 | C11H16N2
product | N-(1-benzyl-3-pyrrolidinyl)-5-chloro-4-dimethylamino-2-ethoxybenzamide | C(C1=CC=CC=C1)N1CC(CC1)NC(C1=C(C=C(C(=C1)Cl)N(C)C)OCC)=O | C22H28ClN3O2
